US04592373
Pyrolysis Of 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionic acid
Analysis of the pyrolyzate by preparative thin layer chromatography indicates that the product mixture contains 810 milligrams (54%) of a 1:1 mixture of 3-acetylpyridine and 3-methylvaleric acid.

reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | 3-methylvaleric acid | CC(CC(=O)O)CC | C6H12O2
product | 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionic acid | CC(CC)C(C(=O)O)C(C=1C=NC=CC1)(C)O | C13H19NO3
